US08309581B2
1-Benzyl-2-(4-chloro-2-cyclopentylmethoxy-phenyl)-5,6-difluoro-1H-benzoimidazole
The title compound was prepared in analogy to Example 19, from 2-(1-benzyl-5,6-difluoro-1H-benzoimidazol-2-yl)-5-chloro-phenol (Example 48, intermediate a) and bromomethyl-cyclopentane (CAS Reg. No. 3814-30-0). Colorless powder (33%). MS (Turbo Spray): m/z=453.0 (M+H).

reactant | 2-(1-benzyl-5,6-difluoro-1H-benzoimidazol-2-yl)-5-chloro-phenol | C(C1=CC=CC=C1)N1C(=NC2=C1C=C(C(=C2)F)F)C2=C(C=C(C=C2)Cl)O | C20H13ClF2N2O
reactant | bromomethyl-cyclopentane | BrCC1CCCC1 | C6H11Br
product | 1-Benzyl-2-(4-chloro-2-cyclopentylmethoxy-phenyl)-5,6-difluoro-1H-benzoimidazole | C(C1=CC=CC=C1)N1C(=NC2=C1C=C(C(=C2)F)F)C2=C(C=C(C=C2)Cl)OCC2CCCC2 | C26H23ClF2N2O
